US03953501
N-(3-METHYLAMINOCARBONYL-5-NITROBENZOYL)-GLYCINE METHYLAMMONIUM SALT (VIIa)
15 ml. of liquid methylamine is added at 0° C. to 42.3 g. (0.15 mole) of N-(3-methoxycarbonyl-5-nitrobenzoyl)-glycine (VIa) in 150 ml. of methanol; the reaction mixture is stored for 3 days at room temperature. Then, the mixture is concentrated to dryness under vacuum, and the residue is refluxed with absolute alcohol. After cooling, the reaction mixture is filtered, washed with alcohol and dried under vacuum. Yield: 43.2 g. M.P. 216°-217°C.

reactant | methylamine | CN | CH5N
reactant | N-(3-methoxycarbonyl-5-nitrobenzoyl)-glycine | 0.15 mole | COC(=O)C=1C=C(C(=O)NCC(=O)O)C=C(C1)[N+](=O)[O-] | C11H10N2O7
solvent | methanol | CO | CH4O
product | N-(3-METHYLAMINOCARBONYL-5-NITROBENZOYL)-GLYCINE METHYLAMMONIUM SALT | C[NH3+].CNC(=O)C=1C=C(C(=O)NCC(=O)[O-])C=C(C1)[N+](=O)[O-] | InChI=1S/C11H11N3O6.CH5N/c1-12-10(17)6-2-7(4-8(3-6)14(19)20)11(18)13-5-9(15)16;1-2/h2-4H,5H2,1H3,(H,12,17)(H,13,18)(H,15,16);2H2,1H3
